### PR TITLE
[Merged by Bors] - feat: nowhere dense and meagre sets

### PR DESCRIPTION
**Pull request by grunweg**
Define nowhere dense and meagre sets and show their basic properties.
Meagre sets are defined as the complement of comeagre(=residual) sets
(and shown to be equivalent to the standard definition); we deduce their API from the API for comeagre sets.

-------------
I'm still pretty new to Lean, hence am open to learning further ways to golf this! :-)
If mathlib prefers American English, I can adjust :joy:

### CODE REVIEW

**Comment by grunweg** [comment]
One sorry remaining, which should be a simple lemma. Otherwise ready for review.

File: Mathlib/Topology/Meagre.lean [hunk 1]
```diff
@@ -0,0 +1,148 @@
...
+- `meagre_iUnion`: countable unions of meagre sets are meagre
+-/
+
+open Function TopologicalSpace Set
+set_option autoImplicit false
+
+variable {α : Type*} [TopologicalSpace α]
+
+/-- A set is nowhere dense iff its closure has empty interior. -/
+def IsNowhereDense (s : Set α) := IsEmpty (interior (closure s))
```
Comment (alreadydone) [inline Mathlib/Topology/Meagre.lean:28]: `IsEmpty` involves an extra coercion to type. You should be able to write simply `interior (closure s) = ∅`.

File: Mathlib/Topology/Meagre.lean [hunk 2]
```diff
@@ -0,0 +1,148 @@
...
+  exact Filter.mem_of_superset hs hts
+
+/-- A finite intersection of meagre sets is meagre. -/
+-- xxx is this superfluous? I presume it is?
+lemma meagre_inter {s t : Set α} (hs : IsMeagre s) : IsMeagre (s ∩ t) :=
+  meagre_mono hs (inter_subset_left s t)
+
+/-- A countable union of meagre sets is meagre. -/
+lemma meagre_iUnion {s : ℕ → Set α} (hs : ∀ n : ℕ, IsMeagre (s n)) :
+    IsMeagre (⋃ (n : ℕ), (s n)) := by
```
Comment (alreadydone) [inline Mathlib/Topology/Meagre.lean:146]: It would be fine to write 
```suggestion
lemma meagre_iUnion {s : ℕ → Set α} (hs : ∀ n, IsMeagre (s n)) :
    IsMeagre (⋃ n, s n) := by
```

**Comment by grunweg** [comment]
Thanks for the fast review.

I've addressed all comments. I've also filled in the last sorry and added the missing import.

**Comment by Felix-Weilacher** [comment]
A few comments

- I think starting a new file for Baire category stuff makes sense, but `Topology.Meagre` is not a good name. Meagreness itself is not distinct enough from `residual` to have its own file, I think. Maybe `Topology.Baire`?
- Because of how central filters are in mathlib, I think it makes more sense to define `meagre` as "my complement is residual", and then prove that this is equivalent to being contained in a countable union of nowhere dense sets.

**Comment by grunweg** [comment]
Sure, I can change both. I'll make these changes once a full review has been performed.

**Comment by grunweg** [comment]
@Felix-Weilacher I have addressed your comments, and also significantly golfed the proofs.

**Comment by grunweg** [comment]
Friendly 15-day review ping - just in case this slipped under the radar.

I've golfed the proof another time; I don't see much leeway of squeezing them further. Suggestions welcome.

File: Mathlib/Topology/GDelta.lean [hunk 3]
```diff
@@ -223,3 +232,108 @@ theorem mem_residual_iff {s : Set α} :
...
+    -- ... and we compute ⋂ U_iᶜ ⊆ sᶜ, completing the proof.
+    have hss'' : s ⊆ ⋃₀ s'' := calc
+      s ⊆ ⋃₀ s' := hss'
+      _ ⊆ ⋃₀ s'' := sUnion_subset_closure
+    have h₂: ⋂₀ (compl '' s'') ⊆ sᶜ := calc ⋂₀ (compl '' s'')
+      _ = (⋃₀ s'')ᶜ := by rw [←compl_sUnion]
+      _ ⊆ sᶜ := compl_subset_compl.mpr hss''
+    exact ⟨compl '' s'', fun t ht ↦ (h' ht).1, fun t ht ↦(h' ht).2,
+           Countable.image (Countable.image hcountable _) compl, h₂⟩
+end meagre
```
Comment (alreadydone) [inline Mathlib/Topology/GDelta.lean:339]: golf (some names need to be changed if you adopt my suggestions above)
```suggestion
  rw [IsMeagre, mem_residual_iff, compl_bijective.surjective.image_surjective.exists]
  simp_rw [← and_assoc, ← forall_and, ball_image_iff, ← closed_nowhere_dense_iff_complement,
    sInter_image, ← compl_iUnion₂, compl_subset_compl, ← sUnion_eq_biUnion, and_assoc]
  refine ⟨fun ⟨S, hS, hc, hsub⟩ ↦ ⟨S, fun s hs ↦ (hS s hs).2, ?_, hsub⟩, fun ⟨S, hS, hc, hsub⟩ ↦ ?_⟩
  · rw [← compl_compl_image S]; exact hc.image _
  use closure '' S
  rw [ball_image_iff]
  exact ⟨fun s hs ↦ ⟨isClosed_closure, (hS s hs).closure_nowhere_dense⟩,
    (hc.image _).image _, hsub.trans (sUnion_mono_subsets fun s ↦ subset_closure)⟩

end meagre
```

**Review by alreadydone — CHANGES_REQUESTED** [review]
LGTM except for some docstrings / declaration names / golfs

File: Mathlib/Topology/GDelta.lean [hunk 4]
```diff
@@ -223,3 +232,108 @@ theorem mem_residual_iff {s : Set α} :
...
+  rw [IsNowhereDense, closure_closure]
+  exact hs
+
+/-- A nowhere dense set `s` is contained in a closed nowhere dense set (namely, its closure). -/
+lemma IsNowhereDense.subset_of_closed_nowhere_dense {s : Set α} (hs : IsNowhereDense s) :
+    ∃ t : Set α, s ⊆ t ∧ IsNowhereDense t ∧ IsClosed t :=
+  ⟨closure s, subset_closure, ⟨hs.closure_nowhere_dense, isClosed_closure⟩⟩
+
+/-- A set `s` is closed and nowhere dense iff its complement `sᶜ` is open and dense. -/
+lemma closed_nowhere_dense_iff_complement {s : Set α} :
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/GDelta.lean:266]: Thanks. Renamed to `closed_isNowhereDense_iff_compl`.

File: Mathlib/Topology/GDelta.lean [hunk 5]
```diff
@@ -223,3 +232,108 @@ theorem mem_residual_iff {s : Set α} :
...
+  constructor
+  · rintro ⟨hclosed, hNowhereDense⟩
+    rw [hclosed.nowhere_dense_iff] at hNowhereDense
+    exact ⟨isOpen_compl_iff.mpr hclosed, interior_eq_empty_iff_dense_compl.mp hNowhereDense⟩
+  · rintro ⟨hopen, hdense⟩
+    constructor
+    · exact { isOpen_compl := hopen }
+    · have : IsClosed s := by exact { isOpen_compl := hopen }
+      rw [this.nowhere_dense_iff, interior_eq_empty_iff_dense_compl]
+      exact hdense
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/GDelta.lean:277]: I didn't know about and_congr_right. Thanks for teaching me a new trick!

**Comment by grunweg** [comment]
Thank you for the fast review. I've addressed all comments.

File: Mathlib/Topology/GDelta.lean [hunk 6]
```diff
@@ -223,3 +232,74 @@ theorem mem_residual_iff {s : Set α} :
...
+/-- A set is called **meagre** iff its complement is a residual (or comeagre) set. -/
+def IsMeagre (s : Set α) := sᶜ ∈ residual α
+
+/-- The empty set is meagre. -/
+lemma meagre_empty : IsMeagre (∅ : Set α) := by
+  rw [IsMeagre, compl_empty]
+  exact Filter.univ_mem
+
+/-- Subsets of meagre sets are meagre. -/
+lemma IsMeagre.mono {s t: Set α} (hs : IsMeagre s) (hts: t ⊆ s) : IsMeagre t :=
```
Comment (alreadydone) [inline Mathlib/Topology/GDelta.lean:280]:
```suggestion
lemma IsMeagre.mono {s t : Set α} (hs : IsMeagre s) (hts: t ⊆ s) : IsMeagre t :=
```

File: Mathlib/Topology/GDelta.lean [hunk 7]
```diff
@@ -223,3 +232,74 @@ theorem mem_residual_iff {s : Set α} :
...
+/-- If a set `s` is nowhere dense, so is its closure.-/
+protected lemma IsNowhereDense.closure {s : Set α} (hs : IsNowhereDense s) :
+    IsNowhereDense (closure s) := by
+  rw [IsNowhereDense, closure_closure]
+  exact hs
+
+/-- A nowhere dense set `s` is contained in a closed nowhere dense set (namely, its closure). -/
+lemma IsNowhereDense.subset_of_closed_nowhereDense {s : Set α} (hs : IsNowhereDense s) :
+    ∃ t : Set α, s ⊆ t ∧ IsNowhereDense t ∧ IsClosed t :=
+  ⟨closure (s : Set α), subset_closure, ⟨hs.closure, isClosed_closure⟩⟩
```
Comment (alreadydone) [inline Mathlib/Topology/GDelta.lean:263]: a bit of golfs
```suggestion
lemma isNowhereDense_of_empty : IsNowhereDense (∅ : Set α) := by
  rw [IsNowhereDense, closure_empty, interior_empty]

/-- A closed set is nowhere dense iff its interior is empty. -/
lemma IsClosed.isNowhereDense_iff {s : Set α} (hs : IsClosed s) :
    IsNowhereDense s ↔ interior s = ∅ := by
  rw [IsNowhereDense, IsClosed.closure_eq hs]

/-- If a set `s` is nowhere dense, so is its closure.-/
protected lemma IsNowhereDense.closure {s : Set α} (hs : IsNowhereDense s) :
    IsNowhereDense (closure s) := by
  rwa [IsNowhereDense, closure_closure]

/-- A nowhere dense set `s` is contained in a closed nowhere dense set (namely, its closure). -/
lemma IsNowhereDense.subset_of_closed_nowhereDense {s : Set α} (hs : IsNowhereDense s) :
    ∃ t : Set α, s ⊆ t ∧ IsNowhereDense t ∧ IsClosed t :=
  ⟨closure s, subset_closure, hs.closure, isClosed_closure⟩
```

File: Mathlib/Data/Set/Lattice.lean [hunk 8]
```diff
@@ -1110,6 +1110,17 @@ theorem sUnion_subset_iff {s : Set (Set α)} {t : Set α} : ⋃₀s ⊆ t ↔ 
...
+/-- `sUnion` is monotone under taking a subset of each set. -/
+lemma sUnion_mono_subsets {s : Set (Set α)} {f : Set α → Set α} (hf : ∀ t : Set α, t ⊆ f t) :
+    ⋃₀ s ⊆ ⋃₀ (f '' s) :=
+  fun _ ⟨t, htx, hxt⟩ ↦ ⟨f t, mem_image_of_mem f htx, hf t hxt⟩
+
+/-- `sUnion` is monotone under taking a superset of each set. -/
+lemma sUnion_mono_supsets {s : Set (Set α)} {f : Set α → Set α} (hf : ∀ t : Set α, f t ⊆ t) :
+    ⋃₀ (f '' s) ⊆ ⋃₀ s :=
+  -- let t ∈ f '' s be arbitrary; then t = f u for some u : Set α
+  fun _ ⟨_, ⟨u, hus, hut⟩, hxt⟩ ↦ ⟨u, hus, (Eq.trans_subset hut.symm (hf u)) hxt⟩
```
Comment (alreadydone) [inline Mathlib/Data/Set/Lattice.lean:1122]:
```suggestion
  fun _ ⟨_, ⟨u, hus, hut⟩, hxt⟩ ↦ ⟨u, hus, (hut ▸ hf u) hxt⟩
```

**Comment by grunweg** [comment]
Thank you again. I have update the code.

**Comment by alreadydone** [comment]
Thanks! 

maintainer merge #

**Review by alreadydone — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks!

bors merge
